US05866592
N-4-Cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine (0.5 g, 1.55 mmol) was dissolved in methylene chloride (30 ml). To the resulting solution, BOP reagent (0.89 g, 4.03 mmol) and diisopropylethyl-amine (DIEA) (1.67 ml, 9.3 mmol) were added under cooling with ice and the mixture was stirred for 30 minutes. To the reaction mixture was added 4-piperidineacetic acid benzyl ester (1.08 g, 4.65 mmol) and the resulting mixture was stirred overnight. After the solvent was distilled off, the residue was dissolved in ethyl acetate, washed sequentially with a 5% aqueous solution of citric acid, a 5% aqueous solution of sodium bicarbonate and a saturated aqueous solution of NaCl 3 times each and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was applied to a silica gel column (2.2×20 cm) and eluted with a mixed solution (hexane:ethyl acetate=3:1). The desired fractions were collected and the solvents were distilled off to yield an oil of N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester (0.58 g, 69.6%).

reactant | N-4-Cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine | 1.55 mmol, 0.5 g | C(#N)C1=CC=C(C(=O)NC(C(C(=O)O)(C)C)C2=CC=CC=C2)C=C1 | C19H18N2O3
reactant | BOP reagent | 4.03 mmol, 0.89 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl-amine | 9.3 mmol, 1.67 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-piperidineacetic acid benzyl ester | 4.65 mmol, 1.08 g | C(C1=CC=CC=C1)OC(CC1CCNCC1)=O | C14H19NO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester | 0.58 g, 69.6% | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C#N)=O)C1=CC=CC=C1)(C)C)=O)=O | C33H35N3O4
